US04954518
20.1 g of 3-amino-4-phenoxyphenol was dissolved in 60 ml of acetic acid. 30 ml of acetic anhydride was added thereto with ice cooling. Stirring was conducted at 20°-25° C. for 1 hour. The mixture was subjected to distillation under reduced pressure to remove the solvent. The resulting crystal was recrystallized from toluene to obtain 22.6 g (yield: 93%) of 3-acetylamino-4-phenoxyphenol having a melting point of 151°-153° C.

reactant | 3-amino-4-phenoxyphenol | 20.1 g | NC=1C=C(C=CC1OC1=CC=CC=C1)O | C12H11NO2
reactant | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 3-acetylamino-4-phenoxyphenol | 22.6 g, yield: 93% | C(C)(=O)NC=1C=C(C=CC1OC1=CC=CC=C1)O | C14H13NO3
